US05405862
An aqueous DMDMH/MDMH/DMH solution was prepared by adding 17.5 parts of DMH to 85 parts of a concentrated DMDMH solution having 20.7% by weight total formaldehyde and 1.2% by weight free formaldehyde.

reactant | DMDMH | CC1(C(=O)N(C(=O)N1CO)CO)C | C7H12N2O4
reactant | formaldehyde | C=O | CH2O
product | DMDMH MDMH | CC1(C(=O)N(C(=O)N1CO)CO)C.CC1(C(=O)NC(=O)N1CO)C | InChI=1S/C7H12N2O4.C6H10N2O3/c1-7(2)5(12)8(3-10)6(13)9(7)4-11;1-6(2)4(10)7-5(11)8(6)3-9/h10-11H,3-4H2,1-2H3;9H,3H2,1-2H3,(H,7,10,11)
